US06943159B1
3-Cyclohexyl-7-(N,N-diethylsulphamoyl)-5-formyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide (0.20 g, 0.46 mmol) was dissolved in 99% EtOH (60 ml). One small drop of concentrated hydrochloric acid was added to ensure fully hydrogenation. The mixture was hydrogenated using Pd/C (10%, 10 mg) at 4 bar pressure for 24 h. The mixture was filtered through a pad of Celite M and evaporated to dryness. The residue was dissolved in EtOAc (50 ml) and washed with water (10 ml), dried (Na2SO4) and evaporated to dryness yielding 0.18 mg (95%) of 3-cyclohexyl-7-(N,N-diethylsulphamoyl)-5-methyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide as colorless powder. The product was further transformed by Method F. M.p. 206-208° C.

reactant | 3-Cyclohexyl-7-(N,N-diethylsulphamoyl)-5-formyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | 0.46 mmol, 0.20 g | C1(CCCCC1)C=1NS(C2=C(N1)C(=CC(=C2)S(N(CC)CC)(=O)=O)C=O)(=O)=O | C18H25N3O5S2
reactant | hydrochloric acid | Cl | ClH
solvent | EtOH | 60 ml | CCO | C2H6O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 3-cyclohexyl-7-(N,N-diethylsulphamoyl)-5-methyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | 0.18 mg, 95% | C1(CCCCC1)C=1NS(C2=C(N1)C(=CC(=C2)S(N(CC)CC)(=O)=O)C)(=O)=O | C18H27N3O4S2
